US07754188B2
Step E 4-(4-Chlorophenyl)-3-(3-cyanophenyl)-2-methylsulfonyloxybutane
To a solution of 4-(4-chlorophenyl)-3-(3-cyanophenyl)-2-butanol (1.0 kg, 3.5 mol) in toluene (10 L) at 0° C. was added triethylamine (684 mL, 4.9 mol) and methanesulfonyl chloride (353 mL, 4.6 mol). After stirring for 5 min, the reaction mixture was filtered, and the precipitate was washed with toluene (8 L). The filtrate was washed with sodium bicarbonate (6 L, 50% saturated aqueous solution) and water (3 L), and concentrated to give the title compound.

reactant | 4-(4-chlorophenyl)-3-(3-cyanophenyl)-2-butanol | 3.5 mol, 1.0 kg | ClC1=CC=C(C=C1)CC(C(C)O)C1=CC(=CC=C1)C#N | C17H16ClNO
reactant | triethylamine | 4.9 mol, 684 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.6 mol, 353 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 10 L | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chlorophenyl)-3-(3-cyanophenyl)-2-methylsulfonyloxybutane | ClC1=CC=C(C=C1)CC(C(C)OS(=O)(=O)C)C1=CC(=CC=C1)C#N | C18H18ClNO3S
